US03947416
Preparation of 4-Azaisatoic Anhydride
A 50 ml. flask was charged with 0.94 g. 3-carbamylisonicotinic acid suspended in 8 ml. dimethylformamide. A 2.5 g. portion of lead tetra-acetate was added to the suspension, and the reaction mixture was stirred at 20° for 10 minutes. The reaction mixture was then warmed to 45° and stirred for 10 minutes. The cooled mixture was poured onto 30 grams crushed ice and the pale yellow solids were collected by filtration and dried in vacuo. Extensive decomposition of the product occurred upon attempted recrystallization from organic solvents. The final yield of 4-azaisatoic anhydride amounted to 0.65 g., melting point 218°, with decomposition, and represented 70 percent of theory. The structure was identified by elemental analysis, infrared spectroscopy and mass spectrometry.

reactant | 3-carbamylisonicotinic acid | C(N)(=O)C1=C(C(=O)O)C=CN=C1 | C7H6N2O3
reactant | lead tetra-acetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-Azaisatoic Anhydride | C1=2C(=O)OC(NC1=CN=CC2)=O | C7H4N2O3
